US05190975
In the same manner as described in Example 1-(1), 2-(benzyloxycarbonylamino)indan-5-acetic acid and methyl γ-aminobutyrate are reacted to give methyl 4-[(2-benzyloxycarbonylaminoindan-5-yl)acetylamino]-n-butyrate.

reactant | 2-(benzyloxycarbonylamino)indan-5-acetic acid | C(C1=CC=CC=C1)OC(=O)NC1CC2=CC=C(C=C2C1)CC(=O)O | C19H19NO4
reactant | methyl γ-aminobutyrate | NCCCC(=O)OC | C5H11NO2
product | methyl 4-[(2-benzyloxycarbonylaminoindan-5-yl)acetylamino]-n-butyrate | C(C1=CC=CC=C1)OC(=O)NC1CC2=CC=C(C=C2C1)CC(=O)NCCCC(=O)OC | C24H28N2O5
